Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Compazine / Valium
 
Attending: ___.
 
Chief Complaint:
lower back pain
 
Major Surgical or Invasive Procedure:
posterior L3-L4 laminectomy/discectomy

 
History of Present Illness:
___ female presents complaining of back pain, abnormal 
MRI. Patient states that she had a mechanical fall on ice 
approximately 2 weeks ago, and since that time has had 
progressive lower back pain with associated intermittent 
weakness in her legs. She reports that the pain occurs when she 
stands or walks for more than a few minutes. She then feels that 
her legs are going to give out on her, and has to sit down 
because she feels that she cannot control her legs. Patient 
denies weakness or numbness of the legs. She denies incontinence 
or saddle anesthesia. Patient states that she was here on 
___ and had an MRI was initially read as negative. Patient 
states that she was called back today and told to come in the 
results of her MRI. She initially presented to ___ 
___ and was transferred here for surgical management. 
 
Past Medical History:
Cocaine use, Anxiety, Depression, Kidney Stones
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Vascular
  Radial DP  ___
 R  2    2   2      
 L  2    2   2      
  
 Sensory:
 UE 
      C5      C6      C7        C8        T1
      (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     intact     intact      intact     intact        intact
L     intact     intact      intact     intact        intact

T2-L1 (Trunk) intact

___       L2      L3   L4   L5      S1           S2
         (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post 
Thigh)
 R intact intact intact intact       intact intact
 L intact intact intact intact       intact intact 

Motor:
 UE    Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
 R   5    5     5     5     5    5    5
 L   5    5     5     5     5    5    5

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
 R     5    5    5     5     5     5           5      
 L     5    5    5     5     5     5         5

Reflexes 
       Bic(C4-5)  BR(C5-6)  Tri(C6-7)  Pat(L3-4)  Ach(L5-S1)
 R    2     2      2         2      2
 L    2     2      2         2      2
              
Straight Leg Raise Test: Negative
Hoover Test: Negative
Babinski: Downgoing toes bilaterally
Clonus: Absent
Perianal sensation: Intact
Estimated Level of Cooperation: Full
Estimated Reliability of Exam: Reliable  
 
Pertinent Results:
IMAGING: 
MRI was reviewed and notable for 
MRI ___:
IMPRESSION: 
1. Large central and right-sided disc herniation at L3-L4 
causing severe right subarticular recess and moderate spinal 
canal narrowing with compression of the traversing cauda equina 
nerve roots. 
2. Severe spinal canal narrowing with cord compression at C3-C4 
and C4-C5, with signal abnormality within the cord at the level 
of C4-C5 which may represent edema or myelomalacia. 
3. Other multilevel degenerative changes to a lesser degree, as 
described above. 
4. No evidence of fracture, traumatic malalignment, infection or 
epidural hematoma. 
 
Brief Hospital Course:
Briefly, ___ presented to the ___ Emergency 
Department on ___ with complaints of worsening lower back 
pain. Lumbar MRI was reviewed which revealed L3-L4 disc 
herniation causing severe stenosis. She was admitted to the 
___ Spine Surgery Service on and taken to the Operating Room 
on ___ for posterior L3-L4 laminectomy and discectomy. 
Please refer to the dictated operative note for further details. 
The surgery was performed without complication, the patient 
tolerated the procedure well and was transferred to the PACU in 
a stable condition. TEDs/pnemoboots were used for postoperative 
DVT prophylaxis. Intravenous antibiotics were given per standard 
protocol. Initial postop pain was controlled with a PCA. 
Postoperative labs were grossly stable. A bupivicaine epidural 
pain catheter placed at the time of surgery remained in place 
until postop day one. The patient remained NPO until bowel 
function returned, then diet was advanced as tolerated. The 
patient was transitioned to oral pain medication when tolerating 
PO diet. Foley was removed on POD#2, and the patient was able to 
void. A hemovac drain that was placed at the time of surgery was 
also removed on POD#2. A lumbar corset brace was fitted for 
comfort and support. Physical therapy was consulted for 
mobilization OOB to ambulate. Hospital course was otherwise 
unremarkable. On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Cyclobenzaprine 10 mg PO TID:PRN spasm 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*90 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0 
6.  Methadone 170 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lumbar stenosis
lumbar disc herniation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory.

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ Spine 
___, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 90 days from the date of surgery.

 
Followup Instructions:
___